US05602132
23 g of 2-chloro-3-cyano-4,6-dimethylpyridine are dissolved in 185 ml of concentrated hydrochloric acid and 240 ml of water. 25.4 g of tin metal are added and the mixture is brought to 100° C. The reaction is monitored by thin layer chromatography (TLC). When the reaction is complete, the mixture is allowed to return to room temperature and filtered and the filtrate is neutralized using sodium hydroxide solution. The mixture is extracted with methylene chloride and the combined organic phases are washed with saturated aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulphate. The solution is concentrated to give 5-cyano-2,4-dimethylpyridine in the form of a yellow precipitate.

reactant | 2-chloro-3-cyano-4,6-dimethylpyridine | 23 g | ClC1=NC(=CC(=C1C#N)C)C | C8H7ClN2
reactant | tin | 25.4 g | [Sn] | Sn
solvent | hydrochloric acid | 185 ml | Cl | ClH
solvent | water | 240 ml | O | H2O
product | 5-cyano-2,4-dimethylpyridine | Yield: 54% | C(#N)C=1C(=CC(=NC1)C)C | C8H8N2
